US05668291
2,2'-Dithiobis[N-(3-nitrophenyl)benzamide]
This compound was prepared according to the general method of Example 77 using 2,2'-dithiobisbenzoyl chloride (2.00 g, 5.83 mmol) in 50 mL of dichloromethane and 3-nitroaniline (1.60 g, 11.6 mmol) in 13 mL of pyridine. The crude product was recrystallized once from ethanol-ether, then twice from acetonitrile-DMF-water to yield 0.79 g of the title compound, mp >270° C.

reactant | 2,2'-dithiobisbenzoyl chloride | 5.83 mmol, 2.00 g | C(C1=C(C=CC=C1)SSC1=C(C(=O)Cl)C=CC=C1)(=O)Cl | C14H8Cl2O2S2
reactant | 3-nitroaniline | 11.6 mmol, 1.60 g | [N+](=O)([O-])C=1C=C(N)C=CC1 | C6H6N2O2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | pyridine | 13 mL | N1=CC=CC=C1 | C5H5N
product | 2,2'-Dithiobis[N-(3-nitrophenyl)benzamide] | 0.79 g | [N+](=O)([O-])C=1C=C(C=CC1)NC(C1=C(C=CC=C1)SSC1=C(C(=O)NC2=CC(=CC=C2)[N+](=O)[O-])C=CC=C1)=O | C26H18N4O6S2
